### PR TITLE
feat(Combinatorics/SimpleGraph): edgeSet of Eulerian walk equal to edgeSet of graph

### PR DESCRIPTION
**Pull request by xcloudyunx**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 1]
```diff
@@ -116,6 +116,13 @@ theorem isEulerian_iff {u v : V} (p : G.Walk u v) :
   · rintro ⟨h, hl⟩
     exact h.isEulerian_of_forall_mem hl
 
+theorem IsEulerian.edgeSet_eq {u v : V} {p : G.Walk u v} (h : p.IsEulerian) :
+    p.edgeSet = G.edgeSet := by
+  have : G.edgeSet ⊆ p.edgeSet := by
+    rw [Set.subset_def]
+    exact (p.isEulerian_iff.mp h).2
+  exact Set.Subset.antisymm p.edges_subset_edgeSet this
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean:124]:
```suggestion
  apply Set.Subset.antisymm p.edges_subset_edgeSet
  rw [Set.subset_def]
  exact (p.isEulerian_iff.mp h).2
```
This is another way of writing the same proof, avoiding the `have`

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 2]
```diff
@@ -116,6 +116,12 @@ theorem isEulerian_iff {u v : V} (p : G.Walk u v) :
   · rintro ⟨h, hl⟩
     exact h.isEulerian_of_forall_mem hl
 
+theorem IsEulerian.edgeSet_eq {u v : V} {p : G.Walk u v} (h : p.IsEulerian) :
+    p.edgeSet = G.edgeSet := by
+  apply Set.Subset.antisymm p.edges_subset_edgeSet
+  rw [Set.subset_def]
+  exact (p.isEulerian_iff.mp h).2
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean:123]: How about we strengthen slightly as:
```suggestion
theorem IsTrail.isEulerian_iff {u v : V} {p : G.Walk u v} (hp : p.IsTrail) :
    p.IsEulerian ↔ p.edgeSet = G.edgeSet :=
  ⟨fun h ↦ Set.Subset.antisymm p.edges_subset_edgeSet (p.isEulerian_iff.mp h).2,
   fun h ↦ p.isEulerian_iff.mpr ⟨hp, by simp [← h]⟩⟩

theorem IsEulerian.edgeSet_eq {u v : V} {p : G.Walk u v} (h : p.IsEulerian) :
    p.edgeSet = G.edgeSet := by
  rwa [← h.isTrail.isEulerian_iff]
```

**Review by ocfnash — APPROVED** [review]
Thanks! Please apply the suggestion and then feel free to merge.

bors d+

**Comment by xcloudyunx** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26263

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean (hunk 2 above)
Comment (xcloudyunx) [reply Mathlib/Combinatorics/SimpleGraph/Trails.lean:123]: Changes have been made in #26263
